* source PRE-AMP-DISCRET
R_R1         N15026 N14894  806 TC=0,0 
R_R2         N15026 N14890  806 TC=0,0 
R_R3         0 N14847  10k TC=0,0 
C_C1         N14836 N39799  3.3u  TC=0,0 
V_V1         0 N15026 15Vdc
V_V2         N15457 0 15Vdc
R_R4         N14925 N14933  80.6 TC=0,0 
R_R5         N14921 N14933  80.6 TC=0,0 
R_R6         N15453 N15457  140 TC=0,0 
R_R7         0 N24191  10k TC=0,0 
V_V3         N14836 0  AC 1V
+SIN 0V 0.5V 1kHz 0 0 0
Q_Q8         N41418 N14894 N22849 BC850C 
Q_Q9         N41452 N23175 N15839 BC860C 
R_R9         N15637 N15626  10k TC=0,0 
C_C3         0 N15637  100u  TC=0,0 
R_R10         N15626 N15877  10k TC=0,0 
R_R12         N15839 N15457  ¨249 TC=0,0 
C_C4         N15626 N15877  10p  TC=0,0 
R_R13         N15026 N22849  249 TC=0,0 
R_R15         N23087 N15457  806 TC=0,0 
R_R14         N23175 N15457  806 TC=0,0 
R_R16         N23551 N23449  80.6 TC=0,0 
R_R17         N23551 N23465  80.6 TC=0,0 
R_R18         N15026 N24034  140 TC=0,0 
R_R19         N24000 0  10k TC=0,0 
R_R22         N15877 N25617  47 TC=0,0 
R_R23         0 N25617  47k TC=0,0 
X_U1         N23449 N14847 N23175 BCM847DS
X_U2         N14921 N15626 N14890 BCM857DS
X_U3         N23465 N15626 N23087 BCM847DS
X_U4         N14925 N14847 N14894 BCM857DS
X_U7         N15453 N24191 N14933 BCM857DS
X_U8         N15457 N15453 N24191 BCM857DS
X_U11         N24034 N24000 N23551 BCM847DS
X_U12         N15026 N24034 N24000 BCM847DS
R_R28         N39799 N14847  470 TC=0,0 
C_C6         0 N14847  33p  TC=0,0 
R_R29         N41448 N41452  390 TC=0,0 
R_R30         N41418 N41422  390 TC=0,0 
X_R31         N41422 N41422 N41448 POT PARAMS: SET=0.35 VALUE=10k
R_R32         N41556 N41452  10k TC=0,0 
C_C7         0 N41556  150p  TC=0,0 
R_R33         N41418 N41663  10k TC=0,0 
C_C8         N41663 0  150p  TC=0,0 
Q_Q10         N41452 N41448 N41846 BC550C 
Q_Q11         N41418 N41422 N41846 BC560C 
X_Q13         N15026 N41418 N42225 awbbc327_40 PARAMS:                         
+                    
X_Q14         N15457 N41452 N42256 awbbc337_40 PARAMS:                         
+                    
R_R34         N15877 N42256  10 TC=0,0 
R_R35         N42225 N15877  10 TC=0,0 
C_C9         N41418 N41452  1uF  TC=0,0 
